US04558067
To a solution of o-mercaptobenzylalcohol (289 mg, 2.06 mmol) in dry dimethylformamide (3 mL) was added sodium hydride (60% dispersion in mineral oil, 83 mg, 2.07 mmol) portionwise and the mixture allowed to stir for 30 minutes. To the resulting solution was added dropwise a solution of 6-acetoxy-7-hydroxymethyl-3,4-dihydrobenzopyran acetate (543 mg, 2.06 mmol) in dry dimethylformamide and the mixture allowed to stir at room temperature under nitrogen for three hours, heated to 50° for 30 minutes, then allowed to cool and stir overnight. The reaction was quenched with 2.5N sodium hydroxide (2 mL) and after stirring for 30 minutes, the mixture was poured into water (75 mL). The aqueous mixture was neutralized with 2N hydrochloric acid (2.5 mL), extracted with ether (2×100 mL) and the ether extract washed with brine (3×100 mL), dried (Na2SO4) and concentrated. The crude product was purified by preparative HPLC (2:1 hexane/ethyl acetate as eluant) to afford 6-hydroxy-7-(2-hydroxymethylphenyl)thiomethyl-3,4-dihydrobenzopyran as a pale off-white solid, m.p. 140°-141° C.

reactant | o-mercaptobenzylalcohol | 2.06 mmol, 289 mg | SC1=C(CO)C=CC=C1 | C7H8OS
reactant | sodium hydride | 2.07 mmol, 83 mg | [H-].[Na+]
reactant | 6-acetoxy-7-hydroxymethyl-3,4-dihydrobenzopyran acetate | 2.06 mmol, 543 mg | C(C)(=O)O.C(C)(=O)OC=1C(=CC2=C(CCCO2)C1)CO
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 6-hydroxy-7-(2-hydroxymethylphenyl)thiomethyl-3,4-dihydrobenzopyran | OC=1C(=CC2=C(CCCO2)C1)CSC1=C(C=CC=C1)CO | C17H18O3S
